US04814329
4.11 g (25 mmoles) of 5-methyl-benzimidazoline-2-thione and 2.45 ml of allyl chloride are refluxed in ethanol, then the reaction mixture is evaporated. The residue is worked up according to the method described in Example 2. The residue obtained after the dichloromethane extraction is recrystallized from 7 ml acetonitrile. 3.29 g (64.66 %) of 5-methyl-2-(2-propenyl-thio)benzimidazole melting at a temperature of 128° C. are obtained.

reactant | 5-methyl-benzimidazoline-2-thione | 25 mmoles, 4.11 g | CC1=CC2=C(NC(N2)=S)C=C1 | C8H8N2S
reactant | allyl chloride | 2.45 ml | C(C=C)Cl | C3H5Cl
solvent | ethanol | C(C)O | C2H6O
product | 5-methyl-2-(2-propenyl-thio)benzimidazole | 3.29 g, 64.66 % | CC1=CC2=C(N=C(N2)SCC=C)C=C1 | C11H12N2S
